US06117875
A mixture of 3-bromo-5-[(E)-2-(3-nitrophenyl)vinyl]pyridine (5.55 g), iron powder (3.05 g) and ammonium formate (5.73 g) in ethanol (90 ml) and water (30 ml) was stirred at 90pbC. for 30 minutes. The mixture was filtered while hot. The filtrate was added to sodium bicarbonate solution and extracted with ethyl acetate twice. The combined organic solution was washed with sodium bicarbonate solution and brine, dried over magnesium sulfate and concentrated to give 3-[(E)-2-(3-aminophenyl)vinyl]-5-bromopyridine (3.57 g).

reactant | 3-bromo-5-[(E)-2-(3-nitrophenyl)vinyl]pyridine | 5.55 g | BrC=1C=NC=C(C1)\C=C\C1=CC(=CC=C1)[N+](=O)[O-] | C13H9BrN2O2
reactant | ammonium formate | 5.73 g | C(=O)[O-].[NH4+]
solvent | ethanol | 90 ml | C(C)O | C2H6O
solvent | water | 30 ml | O | H2O
catalyst | iron | 3.05 g | [Fe] | Fe
product | 3-[(E)-2-(3-aminophenyl)vinyl]-5-bromopyridine | 3.57 g | NC=1C=C(C=CC1)/C=C/C=1C=NC=C(C1)Br | C13H11BrN2
